US08487108B2
To a solution of (S)-tert-butyl 3-cyclohexyl-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (5.23 g, 16.66 mmol) in anhydrous toluene (80 mL) at −20° C. was added EtMgBr (3 M in Et2O, 16.7 mL, 49.97 mmol) slowly. The reaction was allowed to warm to 0° C., and stirred at this temperature for 2 h. The reaction was quenched with 1 M HCl at 0° C. and extracted with EtOAc. The organic phase was washed with sat. aq. NaHCO3, brine, concentrated to give (S)-tert-butyl 1-cyclohexyl-3-oxopentan-2-ylcarbamate. The product was used in the next step without further purification. MS ESI +ve m/z 306 (M+Na).

reactant | (S)-tert-butyl 3-cyclohexyl-1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 16.66 mmol, 5.23 g | C1(CCCCC1)C[C@@H](C(=O)N(C)OC)NC(OC(C)(C)C)=O | C16H30N2O4
reactant | EtMgBr | 49.97 mmol, 3 M, 16.7 mL | CC[Mg+].[Br-]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-butyl 1-cyclohexyl-3-oxopentan-2-ylcarbamate | C1(CCCCC1)C[C@@H](C(CC)=O)NC(OC(C)(C)C)=O | C16H29NO3
